US06271340B1
Preparation of 2,5-diethy-2,5-dimethylimidazolidin-4-one
A 5 liter 4-necked round-bottomed flask equipped with a mechanical stirrer and thermocouple thermometer was charged with 250 ml water and 43.3 g (0.232 mol) of 2,5-diethyl-2,5-dimethylimidazolidin-4-thione. In order to make the thione dissolve, 1.8 g NaOH was added. The solution was cooled to 0-2° C. with a dry ice-acetone bath. The flask was fitted with two additional funels. Simultaneously, a solution of 16.7 g NaOH in 100 ml water (total of 18.5 g or 0.464 mol of NaOH used) was added through one of the funnels and 105 ml (0.928 mol) of 30% H2O2 was added through the other funnel. The reaction mixture was stirred rapidly and required extensive cooling during the addition. The 5 liter flask was used to provide a large surface area for efficient cooling of the exothermic reaction. The heat of reaction was 269.2 Kcal/mol; 124. The addition was completed in 2 hours; the mixture was stirred an additional half hour. At the end of this time, TLC indicated that no thione remained. Then, 27.9 g of NaHSO3, (0.172 mol) was added to quench excess peroxide; this reaction is also somewhat exothermic (temperature increases from 26 to 43° C.). The reaction mixture was transferred to a 2 liter round-bottomed flask and the solvent removed with a rotary evaporator (aspirator pressure) to give a white residue. The residue was extracted with 850 ml of boiling ethanol. Then, 50 ml of toluene was added to the solution and 130 ml of water/ethanol/toluene azeotrope distilled to remove any remaining water. The solution was cooled and filtered to remove a small amount (˜1 g) of Na2SO4 and then the ethanol was removed on the rotary evaporator to give a syrup that crystallized on cooling to room temperature. The yield was 37.5 g (95%) mp 58-64° C. IR (nujol) 1705, 1659 cm-1. 1H NMR (CDCl3+D2O) ppm (combination of equal amounts of 2 sets of cis-trans pairs) 0.95-0.98 (m, 12H, CH3 on 4 ethyls), 1.27, 1.31, 1.34, 1.38 (4 s, total 12H, 4 CH3), 1.50-1.70 (m, 8H, CH2 on 4 ethyls). The singlets at 1.34 and 1.38 collapse to a singlet in D2O but now integrate 6H.

reactant | 2,5-diethyl-2,5-dimethylimidazolidin-4-thione | 0.232 mol, 43.3 g | C(C)C1(NC(C(N1)=S)(C)CC)C | C9H18N2S
reactant | NaOH | 1.8 g | [OH-].[Na+]
reactant | NaOH | 16.7 g | [OH-].[Na+]
reactant | H2O2 | 0.928 mol, 105 ml | OO | H2O2
reactant | NaHSO3 | 0.172 mol, 27.9 g | OS(=O)[O-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 0.464 mol, 100 ml, 18.5 g | O | H2O
product | 2,5-diethy-2,5-dimethylimidazolidin-4-one | C(C)C1(NC(C(N1)=O)(C)CC)C | C9H18N2O
